US09371333B2
2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-5-hydroxy-4H-pyrano[3,2-c]quinoline-3-carbonitrile (17)
2,4-Quinolinediol (193 mg, 1.2 mmol), 3-bromo-4,5-dimethoxy-benzaldehyde (245 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) were taken in 25 ml ethanol at room temperature, charged with DABCO (11 μl, 0.1 mmol) and then stirred at 80° C. under LC-MS control for 21 h whereby the reaction was complete. The reaction mixture was cooled down to room temperature, diluted with water to about 100 ml and stirred for over night at room temperature. The solids were collected by filtration, washed well with 50% aqueous ethanol and dried under high vacuum yielding 395 mg (0.87 mmol, 87%) of the pure title compound.

reactant | 2,4-Quinolinediol | 1.2 mmol, 193 mg | N1=C(C=C(C2=CC=CC=C12)O)O | C9H7NO2
reactant | 3-bromo-4,5-dimethoxy-benzaldehyde | 1 mmol, 245 mg | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | DABCO | 0.1 mmol, 11 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-5-hydroxy-4H-pyrano[3,2-c]quinoline-3-carbonitrile | 0.87 mmol, 395 mg, 87% | NC1=C(C(C=2C(=NC=3C=CC=CC3C2O1)O)C1=CC(=C(C(=C1)OC)OC)Br)C#N | C21H16BrN3O4
